US07544683B2
trans-1-(4-Isopropyl-piperazin-1-yl)-[4-(4-thiazol-2-yl-phenoxy)-cyclohexyl]-methanone
To a mixture of 1.04 g (4.09 mmol) of cis-(4-isopropyl-piperazin-1-yl)-(4-hydroxy-cyclohexyl)-methanone, 1.50 g (6.82 mmol) of 4-iodephenol, 1.25 g (4.77 mmol) of triphenylphisphine in 5 ml THF, 1.1 g (4.78 mmol) of di-tert-butyl azodicarboxylate was added at 0° C., and stirred for 12 h at room temperature. After evaporation, the residue was purified by column chromatography on silica gel eluting with cyclohexane and ethyl acetate=from 100:0 to 2:1. The combined product fractions were evaporated to dryness to yield 0.67 g (14% yields, about 67% purity) of [4-(4-iodo-phenoxy)-cyclohexyl]-(4-isopropyl-piperazin-1-yl)-methanone. A mixture 100 mg (0.15 mmol) of [4-(4-iodo-phenoxy)-cyclohexyl]-(4-isopropyl-piperazin-1-yl)-methanone, 88 mg (0.24 mmol) of 2-tributylstannylthiazole, 15 mg (0.02 mmol) of bis(triphenylphosphine) palladium(II) dichloride and 2 ml of THF was refluxed for 8 hr under Ar. The mixture was evaporated. The residue was purified by column chromatography on silica eluting with cyclohexane and ethyl acetate=from 100:0 to 2:1. The combined product fractions were evaporated to dryness to yield 33 mg (36%) of the title compound. MS (m/e): 414.2 (MH+).

reactant | [4-(4-iodo-phenoxy)-cyclohexyl]-(4-isopropyl-piperazin-1-yl)-methanone | 0.15 mmol, 100 mg | IC1=CC=C(OC2CCC(CC2)C(=O)N2CCN(CC2)C(C)C)C=C1 | C20H29IN2O2
reactant | 2-tributylstannylthiazole | 0.24 mmol, 88 mg | C(CCC)[Sn](C=1SC=CN1)(CCCC)CCCC
catalyst | bis(triphenylphosphine) palladium(II) dichloride | 0.02 mmol, 15 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | trans-1-(4-Isopropyl-piperazin-1-yl)-[4-(4-thiazol-2-yl-phenoxy)-cyclohexyl]-methanone | 33 mg, 36% | C(C)(C)N1CCN(CC1)C(=O)[C@@H]1CC[C@H](CC1)OC1=CC=C(C=C1)C=1SC=CN1 | C23H31N3O2S
